* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP2109-1.2.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 5
L1 N001 OUT 1µ
Rload OUT 0 4
C1 OUT 0 10µ V=4 Irms=8.88 Rser=0.00522854 Lser=0 mfg="KEMET" pn="C0805C106K7PAC" type="X5R"
X§U1 IN IN N001 OUT 0 ADP2109-x.x Rtop=112K
.tran .5m startup
.lib ADP2109-x.x.sub
.backanno
.end
